US07538135B2
To a solution of thionyl chloride (3.0 mL) and 2 drops of DMF stirring under nitrogen at 0° C. is added the title B compound, 4-(5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethoxy)-benzenesulfonic acid sodium salt (1.1 g, 2.53 mmol) in one portion. The resulting suspension is stirred at 0° C. for 10 min. The ice bath is removed and the suspension is stirred at RT for 3 h. The solution is concentrated and the resulting residue is azeotrophed twice with toluene. The residue is taken up into DCM, filtered and evaporated at reduced pressure to give 4-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethoxy]-benzenesulfonic acid chloride as an oil. It is used as such without any additional purification.

reactant | thionyl chloride | 3.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethoxy)-benzenesulfonic acid sodium salt | 2.53 mmol, 1.1 g | [Na+].CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=C(C=C1)S(=O)(=O)[O-]
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethoxy]-benzenesulfonic acid chloride | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=C(C=C1)S(=O)(=O)Cl | C18H13ClF3NO4S
